US09290511B2
2-[[8-[6-(isopropylcarbamoyl)-5-phenyl-thieno[2,3-d]pyrimidin-4-yl]-8-azabicyclo[3.2.1]octan-3-yl]methoxy]ethyl methanesulfonate (0.3 g, 0.5 mmol) was dissolved in NMP (2 mL). Sodium azide (0.2 g, 3 mmol) was added and the reaction heated to 150° C. in the microwave for 30 minutes. The reaction mixture was diluted with DCM (20 mL), washed with water (2×20 mL), dried over Na2SO4 and concentrated in vacuo. The resulting residue was dissolved in THF (5 mL). Triphenylphosphine (0.2 g, 0.8 mmol) was added and the reaction stirred overnight at room temperature. It was heated to reflux for 5 hours. The solvent was removed at reduced pressure. The resulting residue was taken up in DCM, washed with water, dried over Na2SO4 and concentrated at reduced pressure. The resulting residue was purified by flash chromatography, eluting with a gradient of DCM to 90/10/1 DCM/MeOH/NH4OH to afford 4-[(1R,5S)-3-(2-aminoethoxymethyl)-8-azabicyclo[3.2.1]octan-8-yl]-N-isopropyl-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxamide (100 mg).

reactant | 2-[[8-[6-(isopropylcarbamoyl)-5-phenyl-thieno[2,3-d]pyrimidin-4-yl]-8-azabicyclo[3.2.1]octan-3-yl]methoxy]ethyl methanesulfonate | 0.5 mmol, 0.3 g | CS(=O)(=O)OCCOCC1CC2CCC(C1)N2C=2C1=C(N=CN2)SC(=C1C1=CC=CC=C1)C(NC(C)C)=O | C27H34N4O5S2
reactant | Sodium azide | 3 mmol, 0.2 g | [N-]=[N+]=[N-].[Na+]
reactant | Triphenylphosphine | 0.8 mmol, 0.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-[(1R,5S)-3-(2-aminoethoxymethyl)-8-azabicyclo[3.2.1]octan-8-yl]-N-isopropyl-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxamide | 100 mg | NCCOCC1C[C@H]2CC[C@@H](C1)N2C=2C1=C(N=CN2)SC(=C1C1=CC=CC=C1)C(=O)NC(C)C | C26H33N5O2S
